US03951959
1,3-Bis(piperidinosulfonyloxy)-8α-estra-1,3,5(10)-trien-17-one
The above compound is prepared from 1,3-dihydroxy-8α-estra-1,3,5(10)-trien-17-one by reaction with piperidinosulfonyl chloride analogously to Example 24.

reactant | 1,3-dihydroxy-8α-estra-1,3,5(10)-trien-17-one | OC1=CC(=CC=2CC[C@@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C12)=O)O | C18H22O3
reactant | piperidinosulfonyl chloride | N1(CCCCC1)S(=O)(=O)Cl | C5H10ClNO2S
product | 1,3-Bis(piperidinosulfonyloxy)-8α-estra-1,3,5(10)-trien-17-one | N1(CCCCC1)S(=O)(=O)OC1=CC(=CC=2CC[C@@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C12)=O)OS(=O)(=O)N1CCCCC1 | C28H40N2O7S2
